US06573293B2
3-[4-(3-Diethylaminopropylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-4-carboxylic Acid (3-chloro-4-methoxyphenyl)amide
2-Oxo-2,3-dihydro-1H-indole-4-carboxylic acid (3-chloro-4-methoxyphenyl)amide (1 g, 3.16 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide (1 g, 3.58 mmol) to give 1.7 g (85%) of the title compound as a yellow-orange solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-4-carboxylic acid (3-chloro-4-methoxyphenyl)amide | 3.16 mmol, 1 g | ClC=1C=C(C=CC1OC)NC(=O)C=1C=2CC(NC2C=CC1)=O | C16H13ClN2O3
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide | 3.58 mmol, 1 g | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C15H25N3O2
product | 3-[4-(3-Diethylaminopropylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-4-carboxylic Acid (3-chloro-4-methoxyphenyl)amide | 1.7 g, 85% | ClC=1C=C(C=CC1OC)NC(=O)C=1C=2C(C(NC2C=CC1)=O)=CC=1NC(=C(C1C)C(NCCCN(CC)CC)=O)C | C31H36ClN5O4
